US05244997
Using the method of Example 5, ethyl 1-pyrrolidineacetate was reacted with 2-(N,N-diethylamino)ethanol to provide 2-(N,N-diethylamino)ethyl 1-pyrrolidineacetate, b.p. 92° C. at 250 μmHg.

reactant | ethyl 1-pyrrolidineacetate | N1(CCCC1)CC(=O)OCC | C8H15NO2
reactant | 2-(N,N-diethylamino)ethanol | C(C)N(CC)CCO | C6H15NO
product | 2-(N,N-diethylamino)ethyl 1-pyrrolidineacetate | N1(CCCC1)CC(=O)OCCN(CC)CC | C12H24N2O2
